US05306728
240 mg of (E)-N-ethyl-N-(6,6-dimethyl-2-hepten-4-ynyl)-3-bromomethylbenzylamine was dissolved in 4 ml of dimethylformamide, and 61 mg of sodium cyanide was added. The mixture was stirred overnight at room temperature, and then ethyl ether and water were added. The organic layer separated was worked up in a customary manner to give 195 mg of (E)-3-(N-ethyl-6,6-dimethyl-2-hepten-4-ynylaminomethyl)phenylacetonitrile as a colorless oil.

reactant | (E)-N-ethyl-N-(6,6-dimethyl-2-hepten-4-ynyl)-3-bromomethylbenzylamine | 240 mg | C(C)N(C\C=C\C#CC(C)(C)C)CC1=CC(=CC=C1)CBr | C19H26BrN
reactant | sodium cyanide | 61 mg | [C-]#N.[Na+]
reactant | ethyl ether | C(C)OCC | C4H10O
reactant | water | O | H2O
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | (E)-3-(N-ethyl-6,6-dimethyl-2-hepten-4-ynylaminomethyl)phenylacetonitrile | 195 mg | C(C)N(C\C=C\C#CC(C)(C)C)CC=1C=C(C=CC1)CC#N | C20H26N2
